US04230596
Synthesis of 4-octyl-3-bromo-benzoic acid
7 g (0.03 mole) of p-octyl benzoic acid and 6.4 g (0.04 mole) of bromine are added to a mixture of 15 ml of deionized water, 20 ml of nitric acid and 90 ml of acetic acid, the temperature of which is 25° C. A solution of 5.1 g (0.03 mole) of silver nitrate in 15 ml of deionized water is then added over a period of half an hour. The solution is stirred for 3 hours 30 minutes, then the solid in suspension is filtered and washed with deionized water until the washing water shows a neutral reaction. The acid is dissolved in ethanol and the solution is bleached while hot with vegetable black. The crude product obtained after distillation of the ethanol is recrystallized in a 75% ethanol/25% water mixture. 5.1 g of pure product are obtained.

reactant | p-octyl benzoic acid | 0.03 mole, 7 g | C(CCCCCCC)C1=CC=C(C(=O)O)C=C1 | C15H22O2
reactant | bromine | 0.04 mole, 6.4 g | BrBr | Br2
reactant | nitric acid | 20 ml | [N+](=O)(O)[O-] | HNO3
reactant | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
solvent | water | 15 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
catalyst | silver nitrate | 0.03 mole, 5.1 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 15 ml | O | H2O
product | 4-octyl-3-bromo-benzoic acid | 5.1 g | C(CCCCCCC)C1=C(C=C(C(=O)O)C=C1)Br | C15H21BrO2
